US04464300
93.1 g of 8-(ethoxycarbonylamino)-6-(2-chlorophenyl)-1,3,4,6-tetrahydro-2-oxo-2H-5,1-benzothiazocine 5,5-dioxide are dissolved at 80° in a mixture of 1.3 l of carbon tetrachloride, 1.3 l of t-butanol and 33.5 ml of water. After cooling to 35°, the mixture is treated rapidly with 212 g of potassium t-butylate (in three portions) while cooling strongly. The temperature thereby rises to 45°-50°. After the reaction has faded away, the cooling bath is removed and the mixture is stirred for a further 30 minutes. The mixture is poured on to ice and extracted several times with chloroform. The organic solvents are evaporated and the residue is chromatographed on 310 g of silica gel. The desired product is eluted with toluene/chloroform (1:3). After recrystallization from ethyl acetate/petroleum ether, there is obtained ethyl 5-(2-chlorophenyl)-2,3-dihydro-2-oxo-1H-1-benzazepine-7-carbamate of melting point 241°.

reactant | 8-(ethoxycarbonylamino)-6-(2-chlorophenyl)-1,3,4,6-tetrahydro-2-oxo-2H-5,1-benzothiazocine 5,5-dioxide | 93.1 g | C(C)OC(=O)NC=1C=CC2=C(C(S(CCC(N2)=O)(=O)=O)C2=C(C=CC=C2)Cl)C1 | C19H19ClN2O5S
solvent | carbon tetrachloride | 1.3 l | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | t-butanol | 1.3 l | C(C)(C)(C)O | C4H10O
solvent | water | 33.5 ml | O | H2O
product | ethyl 5-(2-chlorophenyl)-2,3-dihydro-2-oxo-1H-1-benzazepine-7-carbamate | ClC1=C(C=CC=C1)C1=CCC(NC2=C1C=C(C=C2)NC(=O)OCC)=O | C19H17ClN2O3
